US09403798B2
6-Butoxy-1-(4-chlorobenzyl)-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one
To a solution of 6-chloro-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one (50 mg, 0.16 mmol) synthesized in Reference Synthesis Example 2 in a solvent mixture of N,N-dimethylformamide (1 mL) and 1,2-dimethoxyethane (1 mL), lithium hydride (1.3 mg, 0.16 mmol) was added at 0° C. and the resultant mixture was stirred at room temperature for 15 minutes. To the mixture, 4-chlorobenzyl bromide (40 mg, 0.19 mmol) was added and the resultant mixture was stirred at room temperature for 30 minutes and then at 60° C. for 2 hours. Next, at room temperature, 1-butanol (30 μL, 0.32 mmol) and lithium hydride (2.6 mg, 0.32 mmol) were added to the resultant mixture and the resultant mixture was stirred for 30 hours. After the completion of the reaction, water was added to the reaction solution and extraction with ethyl acetate from the resultant reaction solution was performed three times. The organic layer was washed with brine, was dried over anhydrous sodium sulfate, and was concentrated under reduced pressure. The resultant residue was purified by amino-type thin-layer chromatography (hexane/ethyl acetate=1/1 (v/v)) to obtain the title compound (18 mg, yield: 21%).

reactant | 6-chloro-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 0.16 mmol, 50 mg | ClC1=NC(=NC(N1)=O)N1CCN(CC1)C1=CC=C(C=C1)F | C13H13ClFN5O
reactant | lithium hydride | 0.16 mmol, 1.3 mg | [H-].[Li+]
reactant | 4-chlorobenzyl bromide | 0.19 mmol, 40 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | 1-butanol | 0.32 mmol, 30 μL | C(CCC)O | C4H10O
reactant | lithium hydride | 0.32 mmol, 2.6 mg | [H-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-Butoxy-1-(4-chlorobenzyl)-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 18 mg, yield: 21% | C(CCC)OC1=NC(=NC(N1CC1=CC=C(C=C1)Cl)=O)N1CCN(CC1)C1=CC=C(C=C1)F | C24H27ClFN5O2
